US05641778
(2S,4S,5S,7S)-N-[4-(tert-Butoxycarbonyl)amino-5-hydroxy-2-isopropyl-8-methyl-7-(2-morpholin-4-ylethylcarbamoyl)-nonyl]-2-(3-methoxypropoxy)-benzamide (64 mg) is stirred in 2 ml of a 4N hydrochloric acid solution in dioxane at 0° C. for one hour, in a manner analogous to that described in Example 21). Removal of the solvent and drying under a high vacuum yield (2S,4S,5S,7S)-N-[4-amino-5-hydroxy-2-isopropyl-8-methyl-7-(2-morpholin-4-ylethylcarbamoyl)-nonyl]-2-(3-methoxypropoxy)-benzamide dihydrochloride: Rf (W)=0.13. HPLC Rt =9.59 min. MS(FAB) m/e 579 (M+ +1).

reactant | (2S,4S,5S,7S)-N-[4-(tert-Butoxycarbonyl)amino-5-hydroxy-2-isopropyl-8-methyl-7-(2-morpholin-4-ylethylcarbamoyl)-nonyl]-2-(3-methoxypropoxy)-benzamide | 64 mg | C(C)(C)(C)OC(=O)N[C@@H](C[C@H](CNC(C1=C(C=CC=C1)OCCCOC)=O)C(C)C)[C@H](C[C@@H](C(C)C)C(NCCN1CCOCC1)=O)O | C36H62N4O8
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2S,4S,5S,7S)-N-[4-amino-5-hydroxy-2-isopropyl-8-methyl-7-(2-morpholin-4-ylethylcarbamoyl)-nonyl]-2-(3-methoxypropoxy)-benzamide dihydrochloride | Cl.Cl.N[C@@H](C[C@H](CNC(C1=C(C=CC=C1)OCCCOC)=O)C(C)C)[C@H](C[C@@H](C(C)C)C(NCCN1CCOCC1)=O)O | InChI=1S/C31H54N4O6.2ClH/c1-22(2)24(21-34-30(37)25-9-6-7-10-29(25)41-16-8-15-39-5)19-27(32)28(36)20-26(23(3)4)31(38)33-11-12-35-13-17-40-18-14-35;;/h6-7,9-10,22-24,26-28,36H,8,11-21,32H2,1-5H3,(H,33,38)(H,34,37);2*1H/t24-,26+,27+,28+;;/m1../s1
